US08614239B2
1-(4-Bromo-2-fluoro-phenyl)-6,7-difluoro-4-methoxy-1,3-dihydro-benzoimidazol-2-one (I-8a)
Intermediate I-8a was prepared from N2-(4-bromo-2-fluoro-phenyl)-3,4-difluoro-6-methoxy-benzene-1,2-diamine (I-6a: 12.5 g, 0.036 mol) and 1,1′-carbonyldiimidazole (14.6 g, 0.0900 mol) using procedures analogous to the preparation of Intermediate (I-7a) above to afford 10 g of the product (74% yield). H1NMR (DMSO-d6, 300 MHz): δ 11.72 (s, 1H), 7.86 (dd, 1H), 7.68-7.58 (m, 2H), 7.02-6.92 (m, 1H), 3.88 (s, 3H).

reactant | N2-(4-bromo-2-fluoro-phenyl)-3,4-difluoro-6-methoxy-benzene-1,2-diamine | 0.036 mol, 12.5 g | BrC1=CC(=C(C=C1)NC=1C(=C(C=C(C1F)F)OC)N)F | C13H10BrF3N2O
reactant | 1,1′-carbonyldiimidazole | 0.0900 mol, 14.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 1-(4-Bromo-2-fluoro-phenyl)-6,7-difluoro-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 10 g, 74% yield | BrC1=CC(=C(C=C1)N1C(NC2=C1C(=C(C=C2OC)F)F)=O)F | C14H8BrF3N2O2
